US06815460B2
N-[[4-[2-(2-Methylpyridin-3-yl)-4-trifluoromethylimidazol-1-yl]phenyl]sulfonyl]propanamide
A mixture of of 4-[2-(2-methylpyridin-3-yl)-4-(trifluoromethyl)-1H-imidazol-1-yl]benzenesulfonamide (2.0 g, 5.2 mmol), propionic anhydride (2.03 g, 15.6 mmol), DMAP (0.38 g, 2.6 mmol) and triethylamine (0.65 g, 6.4 mmol) in 80 mL of THF was stirred at room temperature for 16 hours. The reaction mixture was diluted with 200 mL of water and extracted with ethyl acetate. The organic layer was washed with water, brine, dried over MgSO4 and filtered. The filtrate was concentrated under vacuum and the residue was recrystallized from ethyl acetate and hexane to afford 1.95 g of the desired product as a colorless solid (87%): mp (DSC): 217-218° C. Anal. Calc'd for C19H17F3N4O3S: C, 52.05; H, 3.91; N, 12.98; S, 7.31. Found: C, 51.87; H, 3.84; N, 12.67; S, 7.63.

reactant | 4-[2-(2-methylpyridin-3-yl)-4-(trifluoromethyl)-1H-imidazol-1-yl]benzenesulfonamide | 5.2 mmol, 2.0 g | CC1=NC=CC=C1C=1N(C=C(N1)C(F)(F)F)C1=CC=C(C=C1)S(=O)(=O)N | C16H13F3N4O2S
reactant | propionic anhydride | 15.6 mmol, 2.03 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | triethylamine | 6.4 mmol, 0.65 g | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 2.6 mmol, 0.38 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | N-[[4-[2-(2-Methylpyridin-3-yl)-4-trifluoromethylimidazol-1-yl]phenyl]sulfonyl]propanamide | 1.95 g, 87% | CC1=NC=CC=C1C=1N(C=C(N1)C(F)(F)F)C1=CC=C(C=C1)S(=O)(=O)NC(CC)=O | C19H17F3N4O3S
